US07314888B1
In 33 ml of tetrahydrofuran is dissolved 3.3 g of benzyl (2S,4R)-2-{[methoxy(methyl)amino]carbonyl}-4-(tetrahydro-2H-pyran-2-yloxy)-1-pyrrolidine-carboxylate. After adding 0.64 g of lithium aluminum hydride at −70° C., the mixture thus obtained is stirred at −70° C. for one hour. After dropwise adding 33 ml of ethyl acetate to the reaction mixture over a period of 30 minutes and then 66 ml of tetrahydrofuran containing 20% of water over a period of 30 minutes, the mixture thus obtained is stirred at ambient temperature for 30 minutes. The mixture is filtered with Celite, and the organic layer is separated from the filtrate. The organic layer is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and then the solvent is distilled off under reduced pressure. The residue thus obtained is purified by silica gel column chromatography (eluent; n-hexane:ethyl acetate=1:1) to obtain 1.25 g of benzyl (2S,4R)-2-formyl-4-(tetrahydro-2H-pyran-2-yloxy)-1-pyrrolidinecarboxylate as a light yellow oily product.

reactant | benzyl (2S,4R)-2-{[methoxy(methyl)amino]carbonyl}-4-(tetrahydro-2H-pyran-2-yloxy)-1-pyrrolidine-carboxylate | 3.3 g | CON(C(=O)[C@H]1N(C[C@@H](C1)OC1OCCCC1)C(=O)OCC1=CC=CC=C1)C | C20H28N2O6
reactant | lithium aluminum hydride | 0.64 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | 33 ml | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | tetrahydrofuran | 33 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 66 ml | O1CCCC1 | C4H8O
product | benzyl (2S,4R)-2-formyl-4-(tetrahydro-2H-pyran-2-yloxy)-1-pyrrolidinecarboxylate | 1.25 g | C(=O)[C@H]1N(C[C@@H](C1)OC1OCCCC1)C(=O)OCC1=CC=CC=C1 | C18H23NO5
